US06452014B1
To a solution of 6-bromo-2,5-dimethyl-3-pyridinecarboxaldehyde (378 g, 1.77 mmol) in methanol (25 mL) was added p-toluenesulfonic acid hydrate (342 mg, 1.80 mmol), and the mixture was heated at reflux for 1 h. Diluted aqueous sodium bicarbonate was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to afford 2-bromo-5-dimethoxymethyl-3,6-dimethylpyridine (423 g, 92%).

reactant | 6-bromo-2,5-dimethyl-3-pyridinecarboxaldehyde | 1.77 mmol, 378 g | BrC1=C(C=C(C(=N1)C)C=O)C | C8H8BrNO
reactant | p-toluenesulfonic acid hydrate | 1.80 mmol, 342 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 2-bromo-5-dimethoxymethyl-3,6-dimethylpyridine | 423 g, 92% | BrC1=NC(=C(C=C1C)C(OC)OC)C | C10H14BrNO2
